US07618979B2
Step 6 1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one
To a mixture of 1-chloro-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one (5.0 g, 24.3 mmol), tris (dibenzylidene acetone)dipalladium (0) (1.0 g, 1.09 mmol) and triphenylarsine (2.70 g, 8.82 mmol) in DMF (100 mL) was added tributylisopropenyl stannane (9.60 g, 29.00 mmol). The resulting mixture was degassed and heated at 78° C. for a period of 18 h. The solvant was evaporated under reduced pressure. CH2Cl2 and celite were added to the resulting mixture which was then filtered over celite. The title compound was purified by flash chromatography (50% to 100% EtOAc in Hexane).

reactant | 1-chloro-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one | 24.3 mmol, 5.0 g | ClC1=NC=CC2=C1C=C1C(CCN21)=O | C10H7ClN2O
reactant | triphenylarsine | 8.82 mmol, 2.70 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | tributylisopropenyl stannane | 29.00 mmol, 9.60 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | tris (dibenzylidene acetone)dipalladium (0) | 1.09 mmol, 1.0 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-isopropenyl-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one | C(=C)(C)C1=NC=CC2=C1C=C1C(CCN21)=O | C13H12N2O
